US04792547
6-[(2-Methylphenyl)amino]-N-(1H-5-tetrazolyl)-pyrazine-2-carboxamide
To a suspension of 1.13 g of 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide in 5 ml of dimethylsulfoxide, 5.35 ml of o-toluidine was added, and the mixture was heated for 24 hours at 100°-110 ° C. Water and 10%-sodium hydroxide aqueous solution were added to the reaction mixture, and the aqueous alkaline solution was washed with chloroform. Aqueous layer was filtered and the filtrate was adjusted with 10%-hydrochloric acid to pH 3. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylformamide and ethanol affording 0.19 g of the desired compound as dark yellow crystals, m.p. 277°-282° C. (decomp.).

reactant | 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | 1.13 g | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | o-toluidine | 5.35 ml | NC=1C(=CC=CC1)C | C7H9N
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 6-[(2-Methylphenyl)amino]-N-(1H-5-tetrazolyl)-pyrazine-2-carboxamide | CC1=C(C=CC=C1)NC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C13H12N8O
